US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-alanyl-L-leucinate hydrochloride
153 mg (0.18 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-alanyl-L-leucinate were dissolved in 5 ml dichloromethane and 5 ml diethyl ether. 4.5 ml (17.8 mmol) of 4M hydrogen chloride in dioxane were added, and the mixture was stirred at room temperature for 3 h. The precipitate was filtered off, washed with diethyl ether and dried under high vacuum. This gave 68 mg (55. % of theory) of the desired target compound.

reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-alanyl-L-leucinate | 0.18 mmol, 153 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C43H48ClN7O6S2
reactant | hydrogen chloride | 17.8 mmol, 4M, 4.5 ml | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-alanyl-L-leucinate hydrochloride | Cl.C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | InChI=1S/C43H48ClN7O6S2.ClH/c1-26(2)21-35(49-38(52)27(3)47-42(54)57-43(4,5)6)41(53)56-20-19-55-32-15-11-28(12-16-32)36-33(22-45)37(51-17-7-8-18-51)50-40(34(36)23-46)59-25-31-24-58-39(48-31)29-9-13-30(44)14-10-29;/h9-16,24,26-27,35H,7-8,17-21,25H2,1-6H3,(H,47,54)(H,49,52);1H/t27-,35-;/m0./s1
